US07141583B2
(5R)-3-(4-(1-((4S)-2,2-dimethyl-1,3-dioxolane-4-carbonyl)-1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
A solution of (5R)-3-(4-(1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one hydrochloride (650 mg, 1.64 mM) in dry dichloromethane (20 ml) at 0–4°, was treated with pyridine (648 mg, 8.2 mM) followed by dropwise addition of (4S)-2,2-dimethyl-1,3-dioxolane-4-carbonyl chloride (430 mg, 2.64 mM). The solution was allowed to warm to ambient temperature and stir for 1 hour. The reaction mixture was washed with water and brine, dried (sodium sulfate) and evaporated to a gum which crystallised readily on trituration with diethyl ether to give the title compound (788 mg).

reactant | (5R)-3-(4-(1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one hydrochloride | 1.64 mM, 650 mg | Cl.N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | pyridine | 8.2 mM, 648 mg | N1=CC=CC=C1 | C5H5N
reactant | (4S)-2,2-dimethyl-1,3-dioxolane-4-carbonyl chloride | 2.64 mM, 430 mg | CC1(OC[C@H](O1)C(=O)Cl)C | C6H9ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (5R)-3-(4-(1-((4S)-2,2-dimethyl-1,3-dioxolane-4-carbonyl)-1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 788 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN1N=NC=C1)=O)F)C | C23H25F2N5O5
